US07462630B2
Synthesis of N-{3-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-3-oxopropyl}-2,2-dimethyl-1-propanamine hydrochloride
5 ml of 4 N hydrochloric acid/1,4-dioxane solution was added to 184.1 mg (0.357 mmol) of t-butyl 3-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-3-oxopropyl(neopentyl)carbamate, and they were stirred for 1 hour. The solvent was evaporated under reduced pressure. 5 ml of diethyl ether was added to the residue, and then 1 ml of 4 N hydrochloric acid/ethyl acetate solution was added thereto. The precipitates thus formed were taken by the filtration, washed with diethyl ether and dried under reduced pressure to obtain the title compound.

reactant | hydrochloric acid 1,4-dioxane | 4 N, 5 ml | Cl.O1CCOCC1
reactant | t-butyl 3-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-3-oxopropyl(neopentyl)carbamate | 0.357 mmol, 184.1 mg | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)C(CCN(C(OC(C)(C)C)=O)CC(C)(C)C)=O | C33H42N2O3
product | N-{3-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-3-oxopropyl}-2,2-dimethyl-1-propanamine hydrochloride | Cl.C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)C(CCNCC(C)(C)C)=O | InChI=1S/C28H34N2O.ClH/c1-28(2,3)20-29-17-14-26(31)30-18-15-23(16-19-30)27-24-10-6-4-8-21(24)12-13-22-9-5-7-11-25(22)27;/h4-13,29H,14-20H2,1-3H3;1H
